US06090950
1,2:5,6-Di-O-cyclohexylidene-α-D-glucofuranose (Ligand 12) (DCG).
DCG was prepared according to the procedure described in J. Am. Chem. Soc., 1949, 71, 3072. A mixture of 90 g of α-D-glucose, 200 mL of cyclohexanone and 13 mL of sulfuric acid was allowed to stir at 20° C. for 12 h to afford 43.9 g (29%) of the above-titled compound, after two crystallizations: mp.=130.5-131.5° C. (lit. 131.1-132.4° C.).

reactant | α-D-glucose | 90 g | O[C@@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C6H12O6
reactant | sulfuric acid | 13 mL | S(O)(O)(=O)=O | H2O4S
reactant | cyclohexanone | 200 mL | C1(CCCCC1)=O | C6H10O
product | 1,2:5,6-Di-O-cyclohexylidene-α-D-glucofuranose | 43.9 g, 29% | C1CCC2(CC1)OCC(O2)[C@@H]3[C@@H]([C@@H]4[C@H](O3)OC5(O4)CCCCC5)O | C18H28O6
